US05321037
2-(2-Hydroxy-3-morpholinopropyl)-4-methyl-5-phenyl-3-isoxazolone
1.55 g (17.9 mmoles) of morpholine and 2.46 g (17.9 mmoles) of anhydrous potassium carbonate powder were added to a solution of 4.00 g (14.9 mmoles) of 2-(3-chloro-2-hydroxypropyl)-4-methyl-5-phenyl-3-isoxazolone in 50 ml of ethanol, and the mixture was heated under reflux for 4 hours. At the end of this time, the reaction mixture was cooled by allowing it to stand, and then insoluble materials were removed by filtration. The filtrate was then concentrated by evaporation under reduced pressure, and the residue was purified by column chromatography through silica gel, using ethyl acetate containing 5% by volume methanol as the eluent, to give 4.21 g (yield 83.5%) of the title compound as a colorless syrupy substance.

reactant | morpholine | 17.9 mmoles, 1.55 g | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 17.9 mmoles, 2.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3-chloro-2-hydroxypropyl)-4-methyl-5-phenyl-3-isoxazolone | 14.9 mmoles, 4.00 g | ClCC(CN1OC(=C(C1=O)C)C1=CC=CC=C1)O | C13H14ClNO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-Hydroxy-3-morpholinopropyl)-4-methyl-5-phenyl-3-isoxazolone | 4.21 g, yield 83.5% | OC(CN1OC(=C(C1=O)C)C1=CC=CC=C1)CN1CCOCC1 | C17H22N2O4
